### PR TITLE
[Merged by Bors] - feat(Analysis/Complex/UpperHalfPlane/Topology): Add lemma

### PR DESCRIPTION
**Pull request by CBirkbeck**
Add a lemma about containment of verticalStrips in each other needed for #12456 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean [hunk 1]
```diff
@@ -83,6 +83,13 @@ def verticalStrip (A B : ℝ) := {z : ℍ | |z.re| ≤ A ∧ B ≤ z.im}
 theorem mem_verticalStrip_iff (A B : ℝ) (z : ℍ) : z ∈ verticalStrip A B ↔ |z.re| ≤ A ∧ B ≤ z.im :=
   Iff.rfl
 
+lemma verticalStrip_subset_le (A B B': ℝ) (hbb : B ≤ B') :
```
Comment (urkud) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean:86]: I suggest to add these instead:
```lean
@[gcongr]
lemma verticalStrip_mono {A B A' B' : ℝ} (hA : A ≤ A') (hB : B' ≤ B) : verticalStrip A B ⊆ verticalStrip A' B' := by
  rintro z ⟨hzre, hzim⟩
  exact ⟨hzre.trans hA, hB.trans hzim⟩

@[gcongr]
lemma verticalStrip_mono_left {A A'} (h : A ≤ A') (B) : verticalStrip A B ⊆ verticalStrip A' B :=
  verticalStrip_mono h le_rfl

@[gcongr]
lemma verticalStrip_anti_right (A) {B B'} (h : B' ≤ B) : vecticalStrip A B ⊆ verticalStrip A B' :=
  verticalStrip_mono le_rfl h
```

Comment (CBirkbeck) [reply Mathlib/Analysis/Complex/UpperHalfPlane/Topology.lean]: Yes those are much nicer, thanks!
